US06506772B1
(5-Amino-2-thiazol-2-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-(4-fluoro-phenyl)-methanone
The title compound, MS m/e (%): 340 (M+H+, 100), was prepared in accordance with the general method of example 373 from (2,6-diamino-pyridin-4-yl)-(4-fluoro-phenyl)-methanone, o-mesitylene-sulfonylhydroxylamine, and thiazole-2-carbaldehyde. The purification was performed with reversed phase HPLC eluting with an acetonitrile/water gradient.

reactant | (2,6-diamino-pyridin-4-yl)-(4-fluoro-phenyl)-methanone | NC1=NC(=CC(=C1)C(=O)C1=CC=C(C=C1)F)N | C12H10FN3O
reactant | o-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | thiazole-2-carbaldehyde | S1C(=NC=C1)C=O | C4H3NOS
product | (5-Amino-2-thiazol-2-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-(4-fluoro-phenyl)-methanone | NC1=CC(=CC=2N1N=C(N2)C=2SC=CN2)C(=O)C2=CC=C(C=C2)F | C16H10FN5OS
